US07812028B2
Preparation of 3′-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic Acid (2-cyclopropyl-2-hydroxy-propyl)-amide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, piperidine (commercially available), 4-chlorophenyl-boronic acid (commercially available) and rac-1-amino-2-cyclopropyl-propan-2-ol (commercially available) as starting materials. MS (ISP): 414.4 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | rac-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | 3′-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic Acid (2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)C(CNC(=O)C=1C=C(C(=NC1)N1CCCCC1)C1=CC=C(C=C1)Cl)(C)O | C23H28ClN3O2
